US09416138B2
N-[(1S)-1-(4-Bromophenyl)-2,2,2-trifluoro-ethyl]-(R)-2-methyl-propane-2-sulfinamide
Add neat (trifluoromethyl)trimethylsilane (109 mL, 0.74 mol) to a stirred solution of tetrabutylammonium acetate (88 g, 0.29 mol) and (N—Z)—N-[(4-bromophenyl)methylene]-(R)-2-methyl-propane-2-sulfinamide (85 g, 0.29 mol) in DMF (1.2 L) at 0° C. Stir the mixture at 0-5° C. for 90 min Add a saturated aqueous ammonium chloride solution (1.2 L) and extract with EtOAc (4×400 mL). Combine the organic extracts; sequentially wash the extracts with water then brine (2×1 L); dry over MgSO4; filter; and concentrate the filtrate under reduced pressure. Triturate the residue with hexane (200 mL) for 10 min; filter; and dry under reduced pressure to afford the title compound as a yellow solid (81 g, 76% yield, >98 de). MS (m/z): 358 (M+1).

reactant | (trifluoromethyl)trimethylsilane | 0.74 mol, 109 mL | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | (N—Z)—N-[(4-bromophenyl)methylene]-(R)-2-methyl-propane-2-sulfinamide | 0.29 mol, 85 g | BrC1=CC=C(C=C1)\C=N/[S@](=O)C(C)(C)C | C11H14BrNOS
reactant | ammonium chloride | 1.2 L | [Cl-].[NH4+]
catalyst | tetrabutylammonium acetate | 0.29 mol, 88 g | C(C)(=O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 1.2 L | CN(C)C=O | C3H7NO
product | N-[(1S)-1-(4-Bromophenyl)-2,2,2-trifluoro-ethyl]-(R)-2-methyl-propane-2-sulfinamide | 81 g, 76% yield | BrC1=CC=C(C=C1)[C@@H](C(F)(F)F)N[S@](=O)C(C)(C)C | C12H15BrF3NOS
